US05292760
A stirred solution of 8 g of 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine in 30 ml of 95% ethanol was treated with 2.4 ml of a 37% formaldehyde solution and 3.6 g of succinimide. The solution was heated for 6 hours at 98° C. and then allowed to stand at ambient temperature for 24 hours. The resulting precipitate was filtered, washed (95% ethanol; 3×50 ml), and dried in vacuo (40° C.) to afford 7.62 g of 2-[(2,5-dioxo-1-pyrrolidinyl)methyl]amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine, mp 160°-164° C.

reactant | 2-amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 8 g | NC1=C(C=CC=C1)CC(N(C)C=O)C=1SC=CC1C | C15H18N2OS
reactant | formaldehyde | C=O | CH2O
reactant | succinimide | 3.6 g | C1(CCC(N1)=O)=O | C4H5NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[(2,5-dioxo-1-pyrrolidinyl)methyl]amino-N-formyl-N-methyl-α-(3-methyl-2-thienyl)benzeneethanamine | 7.62 g | O=C1N(C(CC1)=O)CNC1=C(C=CC=C1)CC(N(C)C=O)C=1SC=CC1C | C20H23N3O3S
